US07504410B2
18c) 2-[3-(5-Bromo-4-prop-2-ynyloxy-pyrimidin-2-ylamino)-5-hydroxymethyl-phenylamino]ethanol
To a mixture of 3-[[5-bromo-4-(prop-2-ynyloxy)pyrimidin-2-yl]amino]-5-[(2-hydroxyethyl)amino]benzoic acid and triethylamine (57 μl) in tetrahydrofuran (4 ml) was added ethyl chloroformiate (37 μl) at −10° C. After stirring for 15 minutes at 0° C. sodium borohydride (44 mg) and methanol (3.6 ml) were added and stirring continued over night at room temperature. After dilution with water the reaction mixture was extracted with ethyl acetate and the organic layer subsequently washed with saturated NaHCO3-solution and brine After drying (Na2SO4) and evaporation the residue was subjected to chromatography on-silica gel (hexanes/ethyl acetate) to yield the title compound (59 mg).

reactant | 3-[[5-bromo-4-(prop-2-ynyloxy)pyrimidin-2-yl]amino]-5-[(2-hydroxyethyl)amino]benzoic acid | BrC=1C(=NC(=NC1)NC=1C=C(C(=O)O)C=C(C1)NCCO)OCC#C | C16H15BrN4O4
reactant | triethylamine | 57 μl | C(C)N(CC)CC | C6H15N
reactant | sodium borohydride | 44 mg | [BH4-].[Na+]
reactant | methanol | 3.6 ml | CO | CH4O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 2-[3-(5-Bromo-4-prop-2-ynyloxy-pyrimidin-2-ylamino)-5-hydroxymethyl-phenylamino]ethanol | 59 mg | BrC=1C(=NC(=NC1)NC=1C=C(C=C(C1)CO)NCCO)OCC#C | C16H17BrN4O3
